US07183415B2
7-amino-8-methyl-3-quinolinecarboaldehyde
A suspension of 2-methyl-1,3-benzenediamine (30.0 g, 246 mmol) and 2-dimethylaminomethylene-1,3-bis(dimethylimmonio)propane bis-tetrafluoroborate (263 g, 737 mmol) in isopropanol (500 ml) was heated under reflux with stirring for 16 hrs. and allowed to cool to room temperature. To the reaction solution was added 1N hydrochloric acid (500 ml). The mixture was stirred at 70° C. for 5 hrs. with heating and allowed to cool to room temperature. The resulting precipitate was collected and washed with water, acetonitrile and isopropyl ether. A suspension of the obtained precipitate (61.6 g) and potassium carbonate (170 g, 1.23 mol) in ethyl acetate (500 ml)-water (500 ml) was vigorously stirred with heating at 90° C. and allowed to cool to room temperature. The organic layer was separated, washed with saturated brine, dried over sodium sulfate and passed through silica gel (100 g) packed in a glass filter. The solvent was evaporated under reduced pressure and the obtained crude product was treated with isopropyl ether to give the title compound (35.4 g) as a powder.

reactant | 2-methyl-1,3-benzenediamine | 246 mmol, 30.0 g | CC1=C(C=CC=C1N)N | C7H10N2
reactant | hydrochloric acid | 1N, 500 ml | Cl | ClH
reactant | potassium carbonate | 1.23 mol, 170 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
product | 7-amino-8-methyl-3-quinolinecarboaldehyde | 35.4 g | NC1=CC=C2C=C(C=NC2=C1C)C=O | C11H10N2O
